US04359474
1-(o-aminophenyl)-pyrazole
Into a Parr hydrogenation apparatus is successively added 20 g. (0.106 M.) of 1-(o-nitrophenyl)-pyrazole and 150 ml. of methanol and the resultant solution is hydrogenated in the presence of 1.0 g. of hydrogenation catalyst (10% Pd on active charcoal) at between 40 and 50 p.s.i. of hydrogen pressure at room temperature. After the theoretical uptake of hydrogen is achieved, the reaction mixture is filtered to remove the palladium and the solvent is removed on a rotary evaporator. Ether is then added to the resultant mixture and after removing the precipitated solids by filtration, the solvent is evaporated to yield a light amber colored oil (Yield: 90%).

reactant | 1-(o-nitrophenyl)-pyrazole | 0.106 M | [N+](=O)([O-])C1=C(C=CC=C1)N1N=CC=C1 | C9H7N3O2
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
catalyst | Pd | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-(o-aminophenyl)-pyrazole | Yield: 90% | NC1=C(C=CC=C1)N1N=CC=C1 | C9H9N3
